2155-07-31 07:22:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -d/c sedation
   -changed to CPAP 5/5
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2155-7-28**] 07:53 AM
   Piperacillin/Tazobactam (Zosyn) - [**2155-7-31**] 04:15 AM
   Linezolid - [**2155-7-31**] 04:28 AM
   Infusions:
   Heparin Sodium - 1,100 units/hour
   Propofol - 50 mcg/Kg/min
   Other ICU medications:
   Metoprolol - [**2155-7-30**] 09:58 PM
   Morphine Sulfate - [**2155-7-31**] 02:28 AM
   Hydralazine - [**2155-7-31**] 02:28 AM
   Furosemide (Lasix) - [**2155-7-31**] 03:50 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-7-31**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.1
C (98.8
   HR: 85 (66 - 93) bpm
   BP: 103/31(52) {90/30(47) - 195/59(102)} mmHg
   RR: 25 (19 - 29) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 65 kg (admission): 60 kg
    CVP: 8 (0 - 18)mmHg
   Total In:
                                                                  3,237 mL
                                                                    988 mL
   PO:
   TF:
   IVF:
                                                                  1,677 mL
                                                                    533 mL
   Blood products:
   Total out:
                                                                  1,268 mL
                                                                    530 mL
   Urine:
                                                                    843 mL
                                                                    325 mL
   NG:
                                                                    400 mL
                                                                    200 mL
   Stool:
   Drains:
                                                                     25 mL
                                                                      5 mL
   Balance:
                                                                  1,969 mL
                                                                    458 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 543 (469 - 543) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 28
   PEEP: 10 cmH2O
   FiO2: 40%
   PIP: 14 cmH2O
   SpO2: 97%
   ABG: 7.39/32/145/19/-4
   Ve: 14.7 L/min
   PaO2 / FiO2: 363
   Physical Examination
   General: Intubated, sedated, comfortable on vent
   HEENT: Sclera anicteric, MMM, oropharynx clear, PERRL but small
   Neck: supple, JVP @ temples
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, rhonchi -
   good lung volumes despite large effusion
   CV: irregularly irregular, bradycardic, normal S1 + S2, no murmurs,
   rubs, gallops
   Abdomen: soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: Cool most distally, no clubbing, cyanosis but asymmetric edema
   R>L, no cordsNeurologic: Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   236 K/uL
   8.5 g/dL
   162 mg/dL
   2.0 mg/dL
   19 mEq/L
   5.3 mEq/L
   77 mg/dL
   109 mEq/L
   143 mEq/L
   25.3 %
   14.5 K/uL
        [image002.jpg]
                             [**2155-7-27**]  02:46 PM
                             [**2155-7-27**]  07:47 PM
                             [**2155-7-28**]  02:00 AM
                             [**2155-7-28**]  02:02 AM
                             [**2155-7-29**]  01:09 AM
                             [**2155-7-29**]  01:28 AM
                             [**2155-7-30**]  01:21 AM
                             [**2155-7-30**]  04:16 AM
                             [**2155-7-31**]  02:29 AM
                             [**2155-7-31**]  02:45 AM
   WBC
   7.6
   7.7
   9.6
   14.5
   Hct
   26.4
   24.2
   23.3
   23.4
   25.3
   Plt
   140
   167
   181
   236
   Cr
   1.7
   1.7
   1.7
   2.0
   TropT
   0.08
   TCO2
   22
   21
   25
   20
   20
   Glucose
   138
   144
   122
   162
   Other labs: PT / PTT / INR:12.3/66.8/1.0, CK / CKMB /
   Troponin-T:24//0.08, ALT / AST:[**11-20**], Alk Phos / T Bili:118/0.6,
   Amylase / Lipase:30/30, Fibrinogen:838 mg/dL, Lactic Acid:1.4 mmol/L,
   Albumin:2.0 g/dL, Ca++:9.7 mg/dL, Mg++:2.7 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
 ACIDOSIS, METABOLIC
 .H/O CVA (STROKE, CEREBRAL INFARCTION), OTHER
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 HYPERTENSION, BENIGN
 .H/O ATRIAL FIBRILLATION (AFIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   #. Respiratory Failure - patient arrived with a respiratory acidosis,
   likely secondary to altered mental status in the setting of large right
   sided pleural effusion and compressive atelectasis. Oxygenating well on
   minimal vent settings, which can likely be weaned to PS by morning.
   Patient likely just needs backup rate and peep. Consider retap pleural
   effusion on this admission.
   - wean vent settings to CPAP/PS overnight
   - attempt bolus sedation
   - chlorhex mouthwash, ppi, HOB>30 degrees, oral care
   - consider tap of pleural eff, as compressive atelectasis may be
   barrier to extubation.
   .
   #. Hypotension - differential is still broad at this time. Main
   concerns are hemorrhagic, cardiogenic and septic shock. Hemorrhagic
   shock from a GIB are highly unlikely at this time, as hct has been
   stable and although he did have a moderate amount of BRBPR, he it was
   not brisk and did not continue. GI has a low suspicion that his
   symptoms are secondary to hemorrhage from a GI source. Cardiogenic
   shock is a possibility, the patient has a poor cardiac substrate to
   begin with. That being said, CE's are not elevated over his baseline
   and are in the setting of renal failure, with no acute ischemic changes
   on EKG. It may be that we are seeing cardiac stunning in the setting of
   sepsis, exacerbated by afib with slow ventricular response. PE is also
   a possibility, and on exam there is evidence of asymmetric lower
   extremity edema. Septic shock, of course, is at the top of the
   differential, however, we don't have an obvious source at this time
   aside from a dirty UA. Other sources could be CAP, empyema, aspiration
   pna or GI source, however CT torso (albeit non-con) was unrevealing for
   GI pathology. LFT's were wnl. It's best at this time to treat for
   combination septic and cardiogenic physiologies.
   - Favor pressors over aggressive volume repletion, however will give an
   additional liter of NS and continue with blood as needed to support
   hct>30
   - Dobutamine to titrate to HR>70 and MAP>60 while titrating down
   levophed
   - Pan culture
   - Empiric coverage with vanco/zosyn (vanco dosing by level)
   - LENI's in AM
   - Hct>30
   - Cycle CE's
   - Urine lytes to get a better sense of volume status
   - TTE
   - hold all antihypertensives
   - will need to resite fem line in AM - at that point can check central
   venous sat
   .
   #. Acute on Chronic Renal Failure - baseline 2.0-2.5. Likely secondary
   to poor forward flow from poor cardiac function. Possible that dobuta
   will increase renal perfusion by maximizing EF. Given the patient's
   multiple co-morbidities and age, HD is unlikely to improve his
   mortality and increase his morbidity.
   - call renal in AM, need recs for phos binder
   - urine lytes
   - urine cx
   - continue calcitriol
   .
   #. Altered Mental Status - could be any combination of the above
   factors. Currently intubated and sedated. Suffered a recent parietal
   stroke.
   .
   #. DM2 - RISS and QID fingersticks.
   .
   #. Cards
       Rhythm: afib not on coumadin given GIB history, monitor on
   telemetry. Holding rate control agents. Also slow ventricular response,
   which is likely compromising forward flow given global hypokinesis and
   EF 20%, will start dobutamine.
       Pump: Has large pleural effusion which has been tapped in past,
   transudative. Also has evidence of upper extremity and asymmetric lower
   extremity edema, and elevated JVP, which suggests total body volume
   overload, vs. third spacing. Requiring pressor support now, but this
   may be a function of poor forward flow. Holding diuretics, levophed and
   dobuta to increase ionotropy and EF.
       Coronaries: No evidence of active ischemia at this time. Hct stable
   at 29.6. CE's cycling, however elevated in setting of renal failure,
   they are within his baseline.
   .
   #. Hyperkalemia - in the setting of renal failure. borderline at this
   time. Will hold off on treating right now, but will recheck and use
   kayexalate if necessary.
   .
   # FEN: caution with IVF, replete electrolytes prn, NPO
   .
   # Prophylaxis: boots
   .
   # Access: peripherals
   .
   # Code: presumed full for now - spoke with daughter and HCP tonight,
   who said patient would not want anything "artificial" keeping him
   alive. She was informed that he was getting all artifical care at the
   moment, and she could not answer any further if that was not somethign
   the patient would have wanted. She will come in tomorrow to talk
   further. Meanwhile, the patient is full code.
   .
   # Communication: Patient's daughter, [**Name (NI) 6895**].
   .
   # Disposition: pending above
   .
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2155-7-30**] 06:09 PM 62.[**Telephone/Fax (5) 29**] mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2155-7-25**] 10:02 AM
   Arterial Line - [**2155-7-25**] 11:56 AM
   Prophylaxis:
   DVT:  SCD
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: